US06107339
4.1 g of 2,2-dimethyl-3-(3-methoxy-3-oxo-1-propenyl) cyclopropanecarboxylic acid was dissolved in 50 ml of acetone, and 4.3 g of 4-methoxymethylbezylbromide was added to the solution. Next 2.4 g of triethylamine was added to the solution and underwent reaction at 60-80° C. for 3 hours while agitated, after which ether was added. After the ether solution was fully washed with diluted hydrochloric acid, sodium hydrogencarbonate aqueous solution and brine, it was dried with mirabilite. Ether was distilled under reduced pressure, and 6.3 g of 4-methoxymethylbezyl 2,2-dimethyl-3-(3-methoxy-3-oxo-1-propenyl)cyclopropanecarboxylate was obtained.

reactant | 2,2-dimethyl-3-(3-methoxy-3-oxo-1-propenyl) cyclopropanecarboxylic acid | 4.1 g | CC1(C(C1C=CC(=O)OC)C(=O)O)C | C10H14O4
reactant | 4-methoxymethylbezylbromide | 4.3 g | COCC1=CC=C(CBr)C=C1 | C9H11BrO
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-methoxymethylbezyl 2,2-dimethyl-3-(3-methoxy-3-oxo-1-propenyl)cyclopropanecarboxylate | 6.3 g | CC1(C(C1C=CC(=O)OC)C(=O)OCC1=CC=C(C=C1)COC)C | C19H24O5
